* Parameterized BVM source from bvm-rloop-one-shot-tuning-v1.
.subckt BVM WL BL SE SL
R_BL BL 1 20.0
L_PBL 1 2 0.5p
R_WL WL 13 20.0
L_PWL 13 2 0.5p
B_JM1 2 7 jjmit area=1.2
R_JM1 2 7 8
L_M1 7 0 12.5p
L_M2 2 3 24.5p
B_JM2 3 4 jjmit area=1.4
* RJM2 OPEN
L_M3 4 8 8.5p
L_PM 8 0 0.5p
L_S1 4 5 0.5p
B_JS1 5 6 jjmit area=0.90
* R_JS1_SHUNT OPEN
R_SE SE 14 20.0
L_PSE 14 6 0.5p
R_S 6 10 3.0
L_S3 6 10 0.5p
L_S2 8 9 0.5p
B_JS2 9 10 jjmit area=0.90
* R_JS2_SHUNT OPEN
L_PSL 10 11 0.5p
R_SL 11 12 12.0
L_SL 12 SL 0.4p
.ends BVM
