* Experiment-local QB template; node order and polarity match the registered QB.
.subckt BQ IN OUT
Lin IN 1 1.5p
L1 2 3 1.4p
L2 3 4 2.0p
BJS 1 2 jjmit area=4.0
BJ1 2 0 jjmit area=0.85
RJ1 2 0 32
BJ2 4 0 jjmit area=2.0
RJ2 4 0 12
L3 4 OUT 1.3p
IB 0 3 pwl(0 0 1p 260u)
.model jjmit jj(
+ rtype=1
+ vg=2.8mV
+ cap=0.07pF
+ r0=160
+ rN=16
+ icrit=0.1mA
+ )
.ends BQ
